US08008505B2
1.2 2,N-Dicyclohexyl-2-(2-phenyl-2H-indazol-3-yl)-acetamide
To a solution of cyclohexyl-(2-phenyl-2H-indazol-3-yl)-amine (30 mg, 103 μmol) in chloroform was added Et3N (16 μl, 113 μmol) and cyclohexylacetylchloride (16 μl, 108 μmol; CAS Reg. No. 23860-35-7) at ambient temperature under an argon atmosphere. The mixture was heated to 80° C. for 12 h, poured onto ice water/1 N HCl 1/1 and extracted two times with iPrOAc. The combined extracts were washed with ice water/1 N NaOH 1/1 and ice water/brine 1/1 and dried over Na2SO4. After filtration the solvent was removed under reduced pressure and the crude product was purified by preparative thin layer chromatography (silica gel, iPrOAc/heptane) to give the title compound (27 mg, 65 μmol; 63%) as colorless foam. MS: m/e=416.5 [M+H+].

reactant | cyclohexyl-(2-phenyl-2H-indazol-3-yl)-amine | 103 μmol, 30 mg | C1(CCCCC1)NC=1N(N=C2C=CC=CC12)C1=CC=CC=C1 | C19H21N3
reactant | Et3N | 113 μmol, 16 μl | CCN(CC)CC | C6H15N
reactant | cyclohexylacetylchloride | C1(CCCCC1)CC(=O)Cl | C8H13ClO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2,N-Dicyclohexyl-2-(2-phenyl-2H-indazol-3-yl)-acetamide | 65 μmol, 27 mg, 63% | C1(CCCCC1)C(C(=O)NC1CCCCC1)C=1N(N=C2C=CC=CC12)C1=CC=CC=C1 | C27H33N3O
